US06235787B1
(E)-2′-(4-Bromobenzyl-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide
The (E)-2′-(4-bromobenzyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide used as the starting material was prepared in an analogous manner to that described in Example 15, part (iii), starting from (E)-(2R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbanoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide by reaction with 4-bromobenzyl bromide.

reactant | (E)-2′-(4-bromobenzyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | BrC1=CC=C(CN(NC([C@H](CC(C)C)[C@H](C\C=C\C2=CC=CC=C2)C(NOC2OCCCC2)=O)=O)S(=O)(=O)C)C=C1 | C30H40BrN3O6S
reactant | (E)-(2R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbanoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | O1C(CCCC1)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNS(=O)(=O)C)CC(C)C | C23H34N2O6S
reactant | 4-bromobenzyl bromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
product | 4-Bromobenzyl-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | BrC1=CC=C(C[C@](C(=O)NNS(=O)(=O)C)(CC(C)C)[C@H](CC=CC2=CC=CC=C2)C(NO)=O)C=C1 | C25H32BrN3O5S
